US06403561B1
a) Preparation of N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid n-propylamide
The process is performed as in Example 14 a), starting with N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid prepared as in Example 16 a) and n-propylamine. A white solid is obtained, which is recrystallized from CCl4.

reactant | N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C17H15NO4
reactant | n-propylamine | C(CC)N | C3H9N
product | N-benzyloxycarbonyl-2(S)-indolinecarboxylic acid n-propylamide | C(CC)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C20H22N2O3
